US07001897B2
A solution of 3-t-butyldiphenylsilyloxy-1-{4-[N-(2-azidoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidine (1.05 g, 2.02 mmol) (obtained as described in Reference Example 58(2)) in methanol (60 ml) was subjected to catalytic hydrogenation in the presence of 20% palladium hydroxide on charcoal (1.05 g) at room temperature. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst, and the filtrate concentrated under reduced pressure. To a solution of the obtained crude product in methylene chloride (52.3 ml) were added chloroformic acid p-nitrobenzyl ester (650.7 mg, 3.02 mmol) and triethylamine (0.42 ml, 3.01 mmol) in an ice bath. The mixture was stirred at room temperature for 1.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The obtained organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (2:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-{N-methyl-N-[2-(p-nitrobenzyloxycarbonylamino)-ethyl]carbamoyl}-1,3-thiazol-2-yl)azetidine (699.5 mg, yield 52%) as a pale yellow solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[N-(2-azidoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidine | 2.02 mmol, 1.05 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(C)CCN=[N+]=[N-])=O | C26H32N6O2SSi
reactant | chloroformic acid p-nitrobenzyl ester | 3.02 mmol, 650.7 mg | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | triethylamine | 3.01 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium hydroxide on charcoal | 1.05 g | [OH-].[OH-].[Pd+2]
product | 3-t-butyldiphenylsilyloxy-1-(4-{N-methyl-N-[2-(p-nitrobenzyloxycarbonylamino)-ethyl]carbamoyl}-1,3-thiazol-2-yl)azetidine | 699.5 mg, yield 52% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(CCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C34H39N5O6SSi
